US04167638
A solution of 4-methyl-5,6-dimethoxy-8-aminoquinoline (0.042 mole) in 2-ethoxyethanol (21 ml) containing triethylamine (5.8 ml) and 1-phthalimido-4-iodohexane (14.9 g, 0.042 mole) was heated at 110° for 2.5 hr. Thereafter, there were two incremental additions of triethylamine and side-chain over 6 hrs, and the heating at 110° continued overnight. Th reaction mixture was diluted with chloroform and washed with water (×2). The organic layer was dried (K2CO3) and the solvents were removed in vacuo. The residue was dissolved in ether, filtered and acidified with excess ethereal HCl. The red gum which separated was crystallized from ethanol (150 ml) to yield 5,6-dimethoxy-4-methyl-8-(4-phthalimido-1-ethylbutylamino)quinoline hydrochloride (13 g, 63%), mp 163°-166°.

reactant | 4-methyl-5,6-dimethoxy-8-aminoquinoline | 0.042 mole | CC1=CC=NC2=C(C=C(C(=C12)OC)OC)N | C12H14N2O2
reactant | triethylamine | 5.8 ml | C(C)N(CC)CC | C6H15N
reactant | 1-phthalimido-4-iodohexane | 0.042 mole, 14.9 g | C1(C=2C(C(N1CCCC(CC)I)=O)=CC=CC2)=O | C14H16INO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | 2-ethoxyethanol | 21 ml | C(C)OCCO | C4H10O2
product | 5,6-dimethoxy-4-methyl-8-(4-phthalimido-1-ethylbutylamino)quinoline hydrochloride | 13 g, 63% | Cl.COC1=C2C(=CC=NC2=C(C=C1OC)NC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)CC)C | InChI=1S/C26H29N3O4.ClH/c1-5-17(9-8-14-29-25(30)18-10-6-7-11-19(18)26(29)31)28-20-15-21(32-3)24(33-4)22-16(2)12-13-27-23(20)22;/h6-7,10-13,15,17,28H,5,8-9,14H2,1-4H3;1H
